US06482824B1
To a solution of 1-chloro-1-nitrosocyclohexane (3.22 g, 21.86 mmol) in ethanol (2.31 ml) and diethyl ether (8 ml) cooled in an ice bath was added a solution of 1-(4-ethoxyphenyl)-2-methylpent-1E,3E-diene (4.0 g, 19.88 mmol) in diethyl ether (4 ml). The reaction vessel was sealed and kept in a fridge at 0° C. over a period of 4 weeks yielding three crops of 3,6-dihydro-3,5-dimethyl-6-(4-ethoxyphenyl)-2H-1,2-oxazine hydrochloride as white crystals.

reactant | 1-chloro-1-nitrosocyclohexane | 21.86 mmol, 3.22 g | ClC1(CCCCC1)N=O | C6H10ClNO
reactant | 1-(4-ethoxyphenyl)-2-methylpent-1E,3E-diene | 19.88 mmol, 4.0 g | C(C)OC1=CC=C(C=C1)\C=C(\C=C\C)/C | C14H18O
solvent | ethanol | 2.31 ml | C(C)O | C2H6O
solvent | diethyl ether | 8 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 4 ml | C(C)OCC | C4H10O
product | 3,6-dihydro-3,5-dimethyl-6-(4-ethoxyphenyl)-2H-1,2-oxazine hydrochloride | Cl.CC1NOC(C(=C1)C)C1=CC=C(C=C1)OCC | InChI=1S/C14H19NO2.ClH/c1-4-16-13-7-5-12(6-8-13)14-10(2)9-11(3)15-17-14;/h5-9,11,14-15H,4H2,1-3H3;1H
